US07208495B2
1-(2,2,4,6,7-pentamethyl-3-(pyrrolidinyl)-2,3-dihydro-1-benzofuran-5-yl)-4-phenylpiperazine hydrochloride
Using pyrrolidine and 2,2,4,6,7-pentamethyl-5-(4-phenyl pyrazine-1-yl)-2,3-dihydro-benzofuran-3-ol obtained in Reference Example 30, the free base was obtained in the same manner as in Example 57. The free base was treated with a 4N hydrogenchloride in ethyl acetate (10 ml) to obtain the title compound. Yield 80%. Amorphous powder.

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 2,2,4,6,7-pentamethyl-5-(4-phenyl pyrazine-1-yl)-2,3-dihydro-benzofuran-3-ol | CC1(OC2=C(C1O)C(=C(C(=C2C)C)N2C=CN(C=C2)C2=CC=CC=C2)C)C | C23H26N2O2
reactant | hydrogenchloride | 4N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2,2,4,6,7-pentamethyl-3-(pyrrolidinyl)-2,3-dihydro-1-benzofuran-5-yl)-4-phenylpiperazine hydrochloride | Yield 80% | Cl.CC1(OC2=C(C1N1CCCC1)C(=C(C(=C2C)C)N2CCN(CC2)C2=CC=CC=C2)C)C | InChI=1S/C27H37N3O.ClH/c1-19-20(2)25-23(26(27(4,5)31-25)30-13-9-10-14-30)21(3)24(19)29-17-15-28(16-18-29)22-11-7-6-8-12-22;/h6-8,11-12,26H,9-10,13-18H2,1-5H3;1H
